US05106871
Then, 30 ml of dimethylformamide was added to 5.2 g of 1-[4,6-dimethoxy-2-hydroxy-3-(3-methyl-2-butenyl)phenyl]-3-(4-methoxyphenyl)-1-propanone and 355 mg of sodium hydride, and the mixture was stirred at 0° C. for 1 hour. Then, 2.2 g of methyl α-bromoacetate was added to the mixture, and the mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hours to effect reaction. After the reaction, the reaction mixture was extracted with ethyl acetate and filtered, and the solvent was removed from the filtrate by distillation. The obtained residue was subjected to the silica gel column chrometography [230-400 mesh silica gel; eluting solvent=n-hexane/ethyl acetate (4/1)] to obtain 5.6 g (yield=91.0%) of 1-[4,6-dimethoxy-2-methoxycarbonylmethoxy-3-(3-methyl-2-butenyl)phenyl]-3-(4-methoxyphenyl)-1-propanone in the form of a colorless oil.

reactant | 1-[4,6-dimethoxy-2-hydroxy-3-(3-methyl-2-butenyl)phenyl]-3-(4-methoxyphenyl)-1-propanone | 5.2 g | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC=C(C=C1)OC)=O)O)CC=C(C)C | C23H28O5
reactant | sodium hydride | 355 mg | [H-].[Na+]
reactant | methyl α-bromoacetate | 2.2 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[4,6-dimethoxy-2-methoxycarbonylmethoxy-3-(3-methyl-2-butenyl)phenyl]-3-(4-methoxyphenyl)-1-propanone | 5.6 g, yield=91.0% | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC=C(C=C1)OC)=O)OCC(=O)OC)CC=C(C)C | C26H32O7
